US09382500B2
Step b): 4-(cyclopentylmethyl)-1,2-dimethoxybenzene
A suspension of cyclopentyl(3,4-dimethoxyphenyl)methanone (10.8 g, 0.046 mol), wet Pd/C (1 g) in 10 ml of acetic acid and 10 ml of ethyl acetate was put in an autoclave at 60° C. with 20 bars of hydrogen during 24 hours. Filtration over Celite® and concentration gave 10 g of pale brown oil. This oil was purified by vacuum distillation (100-120° C., 0.02 mbar) through a short path to give 7.1 g (70%) of a colorless liquid.

reactant | cyclopentyl(3,4-dimethoxyphenyl)methanone | 0.046 mol, 10.8 g | C1(CCCC1)C(=O)C1=CC(=C(C=C1)OC)OC | C14H18O3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 4-(cyclopentylmethyl)-1,2-dimethoxybenzene | 10 g | C1(CCCC1)CC1=CC(=C(C=C1)OC)OC | C14H20O2
